US06486325B1
To a solution 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-one (1.50 g, 5.76 mmol) in tetrahydrofuran (30 mL) at 0° C. was added sodium borohydride (0.240 g, 6.34 mmol) followed by boron trifluoride diethyl ether complex (0.992 g, 8.07 mmol). The reaction mixture was warmed to room temperature and was stirred overnight. The reaction mixture was added to water (75 mL) and extracted with methyl-tert-butyl ether (75 mL). The layers were separated and the organic layer was washed with 1N aqueous hydrochloric acid (50 mL), dried over magnesium sulfate, filtered, and concentrated to afford 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-ol as an oil and a mixture of a and b anomers (1.19 g, 79%). Data reported for the major diastereoisomer. 1H NMR (400 MHz, CDCl3) δ1.74 (s, 3), 2.85 (dd, 1, J=15.7, 4.3), 2.88-2.99 (m, 1), 3.11 (dd, 1, J=15.7, 3.2), 3.80 (s, 3), 5.63 (t, 1, J=3.7), 6.69 (d, 1, J=2.7), 6.82 (dd, 1, J=8.7, 2.7), 7.22-7.27 (m, 1). 13C NMR (100 MHz, CDCl3, data reported for identifiable signals of the major diastereoisomer) δ24.52, 35.46, 55.16, 90.71, 113.11, 113.98, 125.22, 127.57, 132.98, 159.59. IR 3439, 2949,1735, 1613, 1506, 1166, 1141, 1070cm−1

reactant | 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-one | 5.76 mmol, 1.50 g | COC=1C=C2CC(OC(C2=CC1)(C(F)(F)F)C)=O | C12H11F3O3
reactant | sodium borohydride | 6.34 mmol, 0.240 g | [BH4-].[Na+]
reactant | water | 75 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-methoxy-1-methyl-1-trifluoromethyl-isochroman-3-ol | COC=1C=C2CC(OC(C2=CC1)(C(F)(F)F)C)O | C12H13F3O3
